US04874775
N-(3-nitrophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 3.2 g. portion of 3-(3-nitrophenylaminomethyl)pyridine was dissolved in 15 ml. of toluene, and 2.7 g. of potassium carbonate and 1.6 ml. of methanesulfonyl chloride were added. The mixture was heated to a gentle boil and stirred overnight under reflux. Twenty-five ml. of water and 25 ml. of ethyl acetate were added, and the organic phase was dried and evaporated under vacuum. The residue was triturated with diethyl ether, filtered and dried to obtain 2.4 g. of the desired product, m.p. 131°-133°.

reactant | 3-(3-nitrophenylaminomethyl)pyridine | [N+](=O)([O-])C=1C=C(C=CC1)NCC=1C=NC=CC1 | C12H11N3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(3-nitrophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1)N(S(=O)(=O)C)CC=1C=NC=CC1 | C13H13N3O4S
